US03970753
A solution of 1-bromo-4-dimethylaminobutan-2-one (13.8 g.) and 2-aminopyridine (4.7 g.) in ethanol (50 ml.) was heated under reflux for 2 hours. Cooling filtration from 1-methylpyrrolidin-3-one methobromide (5.6 g.) followed by concentration and recrystallisation of the residue from methanol gave 2-(2-dimethylaminoethyl)-imidazo [1,2-a] pyridine dihydrobromide, m.p. 262° - 264°.

reactant | 1-bromo-4-dimethylaminobutan-2-one | 13.8 g | BrCC(CCN(C)C)=O | C6H12BrNO
reactant | 2-aminopyridine | 4.7 g | NC1=NC=CC=C1 | C5H6N2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-(2-dimethylaminoethyl)-imidazo [1,2-a] pyridine dihydrobromide | Br.Br.CN(CCC=1N=C2N(C=CC=C2)C1)C | InChI=1S/C11H15N3.2BrH/c1-13(2)8-6-10-9-14-7-4-3-5-11(14)12-10;;/h3-5,7,9H,6,8H2,1-2H3;2*1H
